US04230596
(2) Synthesis of 4-n-pentyl-2-methyl-phenol
153.6 g (0.8 moles) of 4-hydroxy-3-methyl-pentanophenone are added to 500 ml of diethylene glycol, 120 g (3.8 moles) of hydrazine and 196 g (3.5 moles) of potash. The solution is refluxed at 135° C. in the mass for 2 hours and then the excess hydrozine and water are distilled until the temperature of the mass is 230° C. The solution is allowed to cool and then poured into 2.5 l of deionized water. It is then acidified with concentrated hydrochloric acid to pH1. The product precipitates. It is extracted with ether. The ethereal extract is washed with deionized water and then dried on magnesium sulphate. The ether is distilled and the product is purified by distillation. It distills at 97.5° C. at 0.4 mm of mercury. 121.6 g of pure compound is obtained, namely a yield of 85%.

reactant | 4-hydroxy-3-methyl-pentanophenone | 0.8 moles, 153.6 g | OC(C(CC(=O)C1=CC=CC=C1)C)C | C12H16O2
reactant | hydrazine | 3.8 moles, 120 g | NN | H4N2
reactant | potash | 3.5 moles, 196 g | C(=O)([O-])[O-].[K+].[K+]
solvent | diethylene glycol | 500 ml | C(COCCO)O | C4H10O3
product | 4-n-pentyl-2-methyl-phenol | 121.6 g, yield of 85% | C(CCCC)C1=CC(=C(C=C1)O)C | C12H18O
